US09062048B2
Step A: 2-methyl-1-(1,4-dioxaspiro[4.5]decan-8-yl)propan-1-ol
To a solution of 1,4-dioxaspiro[4.5]decane-8-carbaldehyde (693 mg, 4.07 mmol, prepared as described in Pearson, et al. in J. Org. Chem. 1997, 62(16), 5284-5292) in THF (20 mL) cooled to −78° C. under argon was added a isopropylmagnesium bromide (6 mL, 12 mmol, 1 M in THF) dropwise. After the complete addition, the reaction mixture was allowed to reach room temperature overnight. It was then re-cooled to −78° C. and quenched with saturated NaHCO3 solution and warmed to room temperature. After extraction with ether, the organic layer was concentrated in vacuo and the residue purified by flash chromatography (silica gel, 0-100% ether/DCM) to afford the product.

reactant | 1,4-dioxaspiro[4.5]decane-8-carbaldehyde | 4.07 mmol, 693 mg | O1CCOC12CCC(CC2)C=O | C9H14O3
reactant | isopropylmagnesium bromide | 12 mmol, 1 M, 6 mL | C(C)(C)[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-methyl-1-(1,4-dioxaspiro[4.5]decan-8-yl)propan-1-ol | CC(C(O)C1CCC2(OCCO2)CC1)C | C12H22O3
